US05015666
To the Grignard reagent prepared from 20 g 4-bromoanisole (107 mmol) and 2.43 g Mg turnings (107 mg-atom) in 20 mL Et2O was added 19.25 g dry (P2O5) desoxyanisoin (76 mmol) as a solid in four portions, each followed by a 50 mL wash of Et2O. The mixture was stirred at reflux 17 h, cooled to room temperature, poured onto 200 g ice and 40 mL 1N H2SO4, and filtered into a separatory funnel. 100 mL Et2O was added and the organic layer was washed with 100 mL H2O and saturated NaHCO3 (2×100 mL). The organic layer was dried (MgSO4), filtered, and the Et2O was removed under reduced pressure to give crude 1,1,2-Tris(4-methoxyphenyl)ethanol as an orange oil which crystallized (25 mL EtOH with a trace of NH4OH) as an orange solid, 18.6 g (67% crude yield), mp: 109°-127° C.; NMR δ7.47 to 6.63 (m, 12H, ArH), 3.73 (3 overlapping s, 9H, OCH3), 3.48 (s, 2H, CH2), 2.27 (s, 1H, OH). p-TsOH.H2O (2 g; 10.5 mmol) and 18.5 g of the crude carbinol (50.8 mmol) were dissolved in 50 mL C6H6, heated to reflux 2 h, cooled to room temperature, and poured onto 75 mL 5% NaHCO3. The organic layer was washed with 75 mL 5% NaHCO3. The combined aqueous layers were extracted with 25 mL C6H6. The combined organic layers were washed with 100 mL H2O, dried (Na2SO4), filtered, and the solvent removed to give a dark oil. The oil was purified on 80 g flash SiO2 (gradient elution with petroleum ether-CH2Cl 2) yielding an amber oil which solidified at room temperature to yield 1,1,2-Tris(4-methoxyphenyl)ethene as white cubes (11.3 g, 64%), mp: 100°-101° C. (lit. 100°-101° C.). NMR δ7.29 to 6.55 (m, 13H, ArH and C=CH), 3.78 (s, 3H, geminal ring OCH3), 3.75 (s, 3H, vicinal ring OCH3), 3.69 (s, 3H, central ring OCH3).

reactant | 4-bromoanisole | 107 mmol, 20 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | desoxyanisoin | 76 mmol | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 1,1,2-Tris(4-methoxyphenyl)ethanol | COC1=CC=C(C=C1)C(CC1=CC=C(C=C1)OC)(O)C1=CC=C(C=C1)OC | C23H24O4
